datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24](=[C:25]([C:26]([C:27]([H:32])([H:33])[H:34])[C:28]([H:35])([H:36])[H:37])[H:31])([H:29])[H:30]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:26]([C:25](=[C:24]([H:29])[H:30])[H:31])([C:27]([H:32])([H:33])[H:34])[C:28]([H:35])([H:36])[H:37])[H:12],47.9905
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[H:13]>>[C:0]([C:1]([C:2]([C:3]([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][H:13],26.597688
[C:0]([C:1]#[C:2][c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:9])([H:10])[H:11].[H:17]>>[C:0]([C:1]=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:17])([H:9])([H:10])[H:11],20.225456
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])=[C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[H:12])([H:10])[H:11].[C:22](=[C:23]([C:24]([C:25]([H:31])([H:32])[H:33])[C:26](=[C:27]([H:35])[H:36])[H:34])[H:30])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[C:24]([C:23](=[C:22]([H:28])[H:29])[H:30])([C:25]([H:31])([H:32])[H:33])[C:26](=[C:27]([H:35])[H:36])[H:34])[H:12])([H:10])[H:11],60.2914
[C:0]([C:1]1([H:10])[C:2]([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])=[C:6]1[H:15])([H:7])([H:8])[H:9]>>[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]1[H:15])([H:7])([H:8])[H:9].[H:10],110.876
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17](#[C:18][C:19]([H:21])[H:22])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[C:19]([C:18]#[C:17][H:20])([H:21])[H:22])[H:7],45.7311
[C:0]([C:1](=[O:2])[C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1](=[O:2])[C:3]([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([C:5]([H:13])([H:14])[H:15])(=[O:6])[H:12],46.35872
[C:0](#[N:1])[H:2].[O:3][H:4]>>[C:0]#[N:1].[H:2][O:3][H:4],102.9264
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([H:10])[H:11]>>[C:0]1([H:3])([H:4])[C:1]([C:2]([H:6])([H:7])[H:8])([H:5])[C:9]1([H:10])[H:11],-0.37656
[C:0]([C:1](=[N:2][H:7])[H:6])([H:3])([H:4])[H:5].[N:8]([H:9])[H:10]>>[C:0]([C:1](=[N:2])[H:6])([H:3])([H:4])[H:5].[H:7][N:8]([H:9])[H:10],18.581144
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][O:18][H:19]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][O:17][O:18][H:19],71.79744
[H:1].[c:2]1([H:4])[c:5]([H:6])[c:7]2[c:9]([c:10]([H:11])[c:12]1[H:14])[C:15]([H:16])([H:17])[C:18]([H:19])=[C:20]2[H:22]>>[H:1][C:9]12[C:7]([C:5]([H:6])=[C:2]([H:4])[C:12]([H:14])=[C:10]1[H:11])[C:20]([H:22])=[C:18]([H:19])[C:15]2([H:16])[H:17],20.85724
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6]([C:7]([H:17])[H:18])([H:15])[H:16])[H:8]>>[C:0](#[C:1][C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:12])([H:13])[H:14])[C:6]([H:15])([H:16])[C:7]1([H:17])[H:18])[H:8],145.478
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21](=[C:22]([C:23]([C:24]([H:30])([H:31])[H:32])[C:25](=[C:26]([H:34])[H:35])[H:33])[H:29])([H:27])[H:28]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:15])[C:23]([C:22](=[C:21]([H:27])[H:28])[H:29])([C:24]([H:30])([H:31])[H:32])[C:25](=[C:26]([H:34])[H:35])[H:33])[H:11],66.3164
[C:0]([O:1][O:2][H:6])([H:3])([H:4])[H:5].[H:7]>>[C:0]([O:1][O:2][H:6])([H:4])[H:5].[H:3][H:7],7.78224
[N:1]([H:2])[H:3].[N:4]([N:5][H:6])[H:7]>>[H:2][N:5]([N:4][H:7])[H:6].[N:1][H:3],70.1
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([O:4][H:13])([H:11])[H:12])([H:5])([H:6])[H:7].[O:14][O:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([O:4][H:13])([H:11])[H:12])[O:14][O:15])([H:5])([H:6])[H:7],-4.6024
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[C:6]([C:7]([C:8]([C:9]([C:10](=[C:11]([H:27])[H:28])[H:26])[H:25])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])[C:6]([H:19])([H:20])[C:7]([H:21])([H:22])[C:8]([H:23])([H:24])[C:9]1([C:10](=[C:11]([H:27])[H:28])[H:26])[H:25])[H:12],78.1153
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:14])[H:6],13.5562
